US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-(4-fluorophenyl)-1-piperazinecarbothioamide
As described for example 159, 7-chloro-4-(1-piperazinyl)-2-quinolinamine, 4-fluorophenyl isothiocyanate, and diisopropylethyl amine, are reacted to give the product as a white solid. LC-MS: 416 (M++1). 1H NMR (DMSO-d6) δ 3.10 (br.s, 4H), 4.15 (br.s, 4H), 6.20 (s, 1H), 6.45 (br.s, 2H), 7.10 (m, 3H), 7.30 (m, 2H), 7.40 (s, 1H), 7.80 (d, 1H), 9.42 (br.s, 1H).

reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
reactant | 4-fluorophenyl isothiocyanate | FC1=CC=C(C=C1)N=C=S | C7H4FNS
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-(4-fluorophenyl)-1-piperazinecarbothioamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(NC1=CC=C(C=C1)F)=S)Cl | C20H19ClFN5S
